US08022222B2
Preparation of 4-(3-methoxyphenylthio)-N-4-methylthiazol-2-yl)pyridin-2-amine: Using the method of Example 3, Step B, 4-methylthiazol-2-amine (10.8 mL, 4.32 mmol), 2-chloro-4-(3-methoxyphenylthio)pyridine (0.989 g, 3.93 mmol), potassium phosphate (0.917 g, 4.32 mmol), Pd2(dba)3 (0.0899 g, 0.0982 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0625 g, 0.108 mmol) were reacted to provide 4-(3-methoxyphenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine (0.798 g, 61.7% yield). 1H NMR (d6-DMSO) δ 11.08 (s, 1H), 8.09 (d, 1H), 7.45 (t, 1H), 7.14 (m, 2H), 7.11 (m, 1H), 6.77 (s, 1H), 6.61 (dd, 1H), 6.52 (s, 1H), 3.80 (s, 3H), 2.20 (s, 3H); Mass spectrum (apci) m/z=330.2 (M+H).

reactant | pyridin-2-amine | N1=C(C=CC=C1)N | C5H6N2
reactant | 4-methylthiazol-2-amine | 4.32 mmol, 10.8 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(3-methoxyphenylthio)pyridine | 3.93 mmol, 0.989 g | ClC1=NC=CC(=C1)SC1=CC(=CC=C1)OC | C12H10ClNOS
reactant | potassium phosphate | 4.32 mmol, 0.917 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.0982 mmol, 0.0899 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.108 mmol, 0.0625 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 4-(3-methoxyphenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 0.798 g, 61.7% yield | COC=1C=C(C=CC1)SC1=CC(=NC=C1)NC=1SC=C(N1)C | C16H15N3OS2
